US08466181B2
1-(4-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)phenyl)ethanone
As described for example 8e, 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole (70 mg, 0.29 mmol), was converted, using 4′-fluoro-acetophenone instead of 4-fluorobenzotrifluoride, to the title compound (85 mg, 82%) which was obtained as an off white solid. MS: m/e=362.2 [M+H]+.

reactant | 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole | 0.29 mmol, 70 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CNC1)C | C12H10FN5
reactant | 4′-fluoro-acetophenone | FC1=CC=C(C=C1)C(C)=O | C8H7FO
product | 1-(4-(4-(4-(2-Fluorophenyl)-1-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)phenyl)ethanone | 85 mg, 82% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O)C | C20H16FN5O
